US07462613B2
c) 6-Chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide
Oxalyl chloride was added to a solution a 8.73 g of 6-chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid and 1 ml DMF in 250 ml THF at 5-10° C. and the mixture was stirred at room temperature for 2 h. Afterwards, it was evaporated to dryness, the residue dissolved in 450 ml THF and 13.8 g potassium carbonate and a solution of 7.2 g 4-chloro-benzyl amide in THF were added. The solvent was distilled off after 2 h of stirring at room temperature, the residue suspended in 100 ml water and a pH of 6.4 was adjusted. The obtained precipitate was sucked off, suspended again in 50 ml water and the pH is adjusted to 3. Afterwards, the precipitate was sucked off and dried over phosphorous pentoxide in an desiccator.

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid | 8.73 g | ClC=1C=C(C(NN1)=O)C(=O)O | C5H3ClN2O3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 6-Chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide | ClC1=CC=C(CNC(=O)C=2C(NN=C(C2)Cl)=O)C=C1 | C12H9Cl2N3O2
